US04831190
An amount of 0.47 g of to 3,5,6-trifluoro-4-hydroxyphthalic acid and 10 ml of water were placed in a sealed tube, replaced with nitrogen and heated at 140° C. for 3 hours. After completion of the reaction, the mixture was cooled to room temperature and concentrated, whereby crystals were precipitated. The crystals were filtered, washed (chloroform 5 ml) and then dried. As colorless crystals, 0.35 g of 2,4,5-trifluoro-3-hydroxybenzoic acid was obtained.

reactant | 3,5,6-trifluoro-4-hydroxyphthalic acid | FC1=C(C(C(=O)O)=C(C(=C1O)F)F)C(=O)O | C8H3F3O5
solvent | water | 10 ml | O | H2O
product | 2,4,5-trifluoro-3-hydroxybenzoic acid | 0.35 g, Yield: 90% | FC1=C(C(=O)O)C=C(C(=C1O)F)F | C7H3F3O3
